US04132677
A stirred solution of 100 g (0.72 mol) of 2-acetyl-5-norbornene (Aldrich Chemical Co.), 65 g (0.76 mol) of cyanoacetic acid, 2 ml of ammonium hydroxide (58%), 132 ml of dimethylformamide; and 170 ml of benzene was heated to reflux and the water removed with a Dean-Stark trap. The reaction was allowed to continue until the evolution of carbon dioxide ceased (approx. 24 hr.). Upon completion the reaction was cooled and the solvent removed under reduced pressure. The residue oil was distilled under vacuum to give 36 g (31% yield) pf 2-(2-cyano-1-methylethylidene)-bicyclo[2.2.1]hept-5ene: b.p. 73-84° C/1 mm; ir 3060, 2255, 2225, 1450, 1420, 1330, 905, 730, 715: nmr 1.2-2.2 (m), 2m7-3.4 (m), 5.0-6.1 (m, vinylic H ); ms 159.

reactant | 2-acetyl-5-norbornene | 0.72 mol, 100 g | C(C)(=O)C1C2C=CC(C1)C2 | C9H12O
reactant | cyanoacetic acid | 0.76 mol, 65 g | C(#N)CC(=O)O | C3H3NO2
reactant | ammonium hydroxide | 2 ml | [OH-].[NH4+]
reactant | dimethylformamide | 132 ml | CN(C=O)C | C3H7NO
solvent | benzene | 170 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-cyano-1-methylethylidene)-bicyclo[2.2.1]hept-5ene | 31% yield | C(#N)CC(C)=C1C2C=CC(C1)C2 | C11H13N
